US07989461B2
To a round-bottomed flask were added methanol (70 ml, 91 mmol), glacial acetic acid (70 ml, 1212 mmol), and 7-methylquinazolin-4(3H)-one (14.56 g, 91 mmol). The reaction mixture was stirred at room temperature for 5 min followed by the slow addition of bromine (9.3 ml, 182 mmol). The reaction was stirred at room temperature for 3 h. Volatiles were evaporated under reduced pressure and the resulting crude residue washed with aqueous sodium thiosulfate to remove excess bromine and HBr, then oven dried to afford 6-bromo-7-methylquinazolin-4(3H)-one as light yellow amorphous solid. MS (M+H)+ 239, 241.

reactant | methanol | 91 mmol, 70 ml | CO | CH4O
reactant | acetic acid | 1212 mmol, 70 ml | C(C)(=O)O | C2H4O2
reactant | 7-methylquinazolin-4(3H)-one | 91 mmol, 14.56 g | CC1=CC=C2C(NC=NC2=C1)=O | C9H8N2O
reactant | bromine | 182 mmol, 9.3 ml | BrBr | Br2
product | 6-bromo-7-methylquinazolin-4(3H)-one | BrC=1C=C2C(NC=NC2=CC1C)=O | C9H7BrN2O
